US08809536B2
(R*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-(4-fluorophenyl)piperidine
(R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(R*)-3-(4-fluorophenyl)piperidin-1-yl]methanone (20 mg, 0.058 mmol) was treated with BH3THF according to the above general procedure. Flash chromatography gave 16 mg of the title compound.

reactant | (R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(R*)-3-(4-fluorophenyl)piperidin-1-yl]methanone | 0.058 mmol, 20 mg | O1[C@H](COC2=C1C=CC=C2)C(=O)N2C[C@H](CCC2)C2=CC=C(C=C2)F | C20H20FNO3
reactant | BH3THF | B.C1CCOC1
product | (R*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-(4-fluorophenyl)piperidine | 16 mg | O1[C@H](COC2=C1C=CC=C2)CN2C[C@H](CCC2)C2=CC=C(C=C2)F | C20H22FNO2
